US06740647B1
Cyclopentylglycine was prepared by hydrolysing N-acetyl-(D,L)-cyclopentylglycine with 6N hydrochloric acid, the former having been prepared as described in the literature by J. T. Hill and F. W. Dunn, J. Org. chem. 30(1965), 1321.

reactant | N-acetyl-(D,L)-cyclopentylglycine | CC(=O)N(CC(=O)O)C1CCCC1 | C9H15NO3
reactant | hydrochloric acid | 6N | Cl | ClH
product | Cyclopentylglycine | C1(CCCC1)NCC(=O)O | C7H13NO2
